US09034850B2
Step A. Synthesis of 4-bromo-2-hydroxy-butyric acid methyl ester
To a solution of 5-(2-bromo-ethyl)-2,2-dimethyl-[1,3]dioxolan-4-one (synthesized as instructed in Tetrahedron Letters, 1997, 38, 28, 4935) (93 mg, 0.416 mmol) in toluene (0.5 mL) were added p-TsOH.H2O (8 mg, 0.0415 mmol) and methanol (0.5 mL), followed stirring overnight at room temperature. The solution was concentrated in a vacuum, diluted with dichloromethane and washed with an aqueous saturated sodium bicarbonate solution. The organic layer thus formed was dried over sodium sulfate and filtered. The filtrate was concentrated to produce 68 mg of the compound as an oil. 1H NMR (300 MHz, CDCl3) δ 1.98 (1H, m), 2.34 (1H, m), 2.96 (1H, d), 3.56 (2H, m), 3.82 (3H, s), 4.37 (1H, pentet).

reactant | 5-(2-bromo-ethyl)-2,2-dimethyl-[1,3]dioxolan-4-one | 0.416 mmol, 93 mg | BrCCC1C(OC(O1)(C)C)=O | C7H11BrO3
reactant | p-TsOH.H2O | 0.0415 mmol, 8 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | methanol | 0.5 mL | CO | CH4O
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-2-hydroxy-butyric acid methyl ester | 68 mg | COC(C(CCBr)O)=O | C5H9BrO3
